US07790751B2
A solution of 1-benzyl-4-[3-(1-naphthylsulfonylmethyl)-4-nitrophenoxy]-piperidine (4.7 g, 9.1 mmol) and benzylchloroformate (6.0 mL, 42 mmol) in benzene was heated at reflux temperature, under nitrogen, for 3 hours, cooled to ambient temperatures, poured into 2.5 N sodium hydroxide and extracted with ethyl acetate. The extracts were combined, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography using 30-50% ethyl acetate in hexane to afford 4-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-piperidine-1-carboxylic acid benzyl ester as a buff foam/amber gum, 3.9 g, 76%); Mass spectrum (+EI, [M+H]+) m/z 561. 1HNMR (500 MHz, DMSO-d6): δ8.44-8.46 (m, 1H), 8.30 (d, 1H, J=8.17 Hz), 8.07-8.10 (m, 1H), 7.94-7.99 (m, 2H), 7.61-7.68 (m, 3H), 7.27-7.37 (m, 5H), 7.09 (dd, 1H, J=9.15 Hz and 2.81 Hz), 6.72 (d, 1H, J=2.81 Hz), 5.23 (s, 2H), 5.05 (s, 2H), 4.36-4.40 (m, 1H), 3.58-3.61 (m, 2H), 3.10-3.20 (m, 2H), 1.70-1.74 (m, 2H), 1.34-1.42 ppm (m, 2H).

reactant | 1-benzyl-4-[3-(1-naphthylsulfonylmethyl)-4-nitrophenoxy]-piperidine | 9.1 mmol, 4.7 g | C(C1=CC=CC=C1)N1CCC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C29H28N2O5S
reactant | benzylchloroformate | 42 mmol, 6.0 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | sodium hydroxide | 2.5 N | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-[3-(naphthalene-1-sulfonylmethyl)-4-nitro-phenoxy]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])CS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C30H28N2O7S
